US07265246B2
Reflux formamide (2 mL, 50 mmol) and P2S5 (4.4 g, 10 mmol) dioxane (50 mL) for 2 hours. Add this crude solution to 2-(4-bromo-3-oxobutyl)isoindole-1,3-dione (2.3 g, 7.7 mmol) in dioxane (100 mL) and reflux the resulting reaction solution for 1.5 hours. Add ethyl acetate (100 mL) and 1N sodium hydroxide (100 mL) to the mixture. Separate the organic phase, wash with brine (50 mL), dry (Na2SO4), filter and concentrate in vacuo to an oil. Perform chromatography (silica gel, 7:3 hexane/ethyl acetate) to afford 2-(2-thiazol-4-ylethyl)isoindole-1,3-dione (790 mg). 1H NMR (CDCl3) δ 8.75 (s, 1H), 7.80-7.88 (m, 2H), 7.69-7.75 (m, 2H), 7.08 (s, 1H), 4.10 (t, J=7 Hz, 2H), 3.28 (t, J=7 Hz, 2H).

reactant | formamide | 50 mmol, 2 mL | C(=O)N | CH3NO
reactant | P2S5 | 10 mmol, 50 mL, 4.4 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | 2-(4-bromo-3-oxobutyl)isoindole-1,3-dione | 7.7 mmol, 2.3 g | BrCC(CCN1C(C2=CC=CC=C2C1=O)=O)=O | C12H10BrNO3
reactant | sodium hydroxide | 1N, 100 mL | [OH-].[Na+]
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 2-(2-thiazol-4-ylethyl)isoindole-1,3-dione | 790 mg | S1C=NC(=C1)CCN1C(C2=CC=CC=C2C1=O)=O | C13H10N2O2S
